US05919780
(8-Methoxy-5H-dibenzo[b,e][1,4]diazepin-11-yl)-pyridin-3-ylmethyl-amine
A solution of 0.25 g (0.98 mmol) of 8-methoxy-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione (Hunziker F., et al., Helv. Chim. Acta, 50:1588 (1967)) in 10 mL of 2-ethoxyethanol was treated with 0.22 mL (2.1 mmol) of 3-(aminomethyl)pyridine and heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with a gradient of CH2Cl2 /hexane (80/20) to CH2Cl2 /MeOH (94/6) gave 80 mg (25% yield) of the product as a yellow solid, mp 160-161° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =331.

reactant | 8-methoxy-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 0.98 mmol, 0.25 g | COC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C1 | C14H12N2OS
reactant | 3-(aminomethyl)pyridine | 2.1 mmol, 0.22 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (8-Methoxy-5H-dibenzo[b,e][1,4]diazepin-11-yl)-pyridin-3-ylmethyl-amine | 80 mg, 25% yield | COC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)NCC=3C=NC=CC3)C1 | C20H18N4O
